### PR TITLE
[Merged by Bors] - feat: local existence of integral curves of vector field

### PR DESCRIPTION
**Pull request by winstonyin**
Port of [mathlib#17140](https://github.com/leanprover-community/mathlib/pull/17140) plus much more. Comments therein addressed.

For any continuously differentiable vector field (section of tangent bundle) on a manifold `M` and any chosen interior point `x₀ : M`, there exists an integral curve `γ : ℝ → M` such that `γ t₀ = x₀` for any real number `t₀` and the tangent vector of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open interval around `t₀`.

As a corollary, such an integral curve exists for any starting point `x₀` if `M` is a manifold without boundary.

We define three `Prop`s:
1. `IsIntegralCurveOn γ v s` means `γ t` is tangent to `v (γ t)` for all `t` within `s : Set ℝ`.
2. `IsIntegralCurveAt γ v t₀` means `γ` is a local integral curve to `v`. That is, `γ t` is tangent to `v (γ t)` for all `t` within some open interval of `t₀`.
3. `IsIntegralCurve γ v` means `γ` is a global integral curve to `v`. That is, `γ t` is tangent to `v (γ t)` for all `t : ℝ`.

Lemmas about rescaling and translation of integral curves are proven:
* If `γ` solves `v` at `t₀`, then `γ (t + dt)` is tangent to `v` at `t₀ - dt`.
* If `γ` solves `v` at `t₀`, then `γ (a * t)` is tangent to `a • v` at `t₀ / a` for any non-zero `a`.
* The constant function at `x₀` solves any `v` with `v x₀ = 0`.

We also shuffle the position of `∃ ε > (0 : ℝ)` in `PicardLindelof` to one that makes more sense, since `f t₀ = x₀` does not depend on `ε` yet.

---

- [x] depends on: #8624
- [x] depends on: #8672

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 1]
```diff
@@ -0,0 +1,153 @@
...
+Authors: Winston Yin
+-/
+import Mathlib.Analysis.ODE.PicardLindelof
+import Mathlib.Geometry.Manifold.ContMDiff
+import Mathlib.Geometry.Manifold.MFDeriv
+
+/-!
+# Integral curves of vector fields on a manifold
+
+For any continuously differentiable vector field on a manifold `M` and any chosen non-boundary point
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:13]: I'd just say "interior point". :-)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+`x₀ : M`, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the tangent vector of `γ`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:14]: wording suggestion: "there exists an integral curve $\gamma : \mathbb{R}\to M$"

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 3]
```diff
@@ -0,0 +1,153 @@
...
+at `t` coincides with the vector field at `γ t` for all `t` within an open interval around `t₀`.
+
+As a corollary, such an integral curve exists for any starting point `x₀` if `M` is a manifold
+without boundary.
+
+## Tags
+
+integral curve, vector field
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:22]: how about adding "local existence" as well?

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 4]
```diff
@@ -0,0 +1,153 @@
...
+/-- An interior point of a manifold is a point whose image in the model vector space is in the
+interior of the chart's target. -/
+def ModelWithCorners.IsInteriorPoint (x : M) := extChartAt I x x ∈ interior (extChartAt I x).target
+
+lemma ModelWithCorners.Boundaryless.isOpen_target
+    [I.Boundaryless] {x : M} : IsOpen (extChartAt I x).target := by
+rw [extChartAt_target, ModelWithCorners.Boundaryless.range_eq_univ, Set.inter_univ]
+exact (ModelWithCorners.continuous_symm _).isOpen_preimage _ (LocalHomeomorph.open_target _)
+
+lemma ModelWithCorners.Boundaryless.isInteriorPoint
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:47]: If you want a docstring, how about this?
```suggestion
/-- If M has no boundary, every point is an interior point. -/
lemma ModelWithCorners.Boundaryless.isInteriorPoint
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [SmoothManifoldWithCorners I M]
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace 𝕜 E']
+  {H' : Type*} [TopologicalSpace H'] {I' : ModelWithCorners 𝕜 E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+
+/-- An interior point of a manifold is a point whose image in the model vector space is in the
+interior of the chart's target. -/
+def ModelWithCorners.IsInteriorPoint (x : M) := extChartAt I x x ∈ interior (extChartAt I x).target
+
+lemma ModelWithCorners.Boundaryless.isOpen_target
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:42]: This holds more generally for every local homeomorphism.

```/-- If I is boundaryless, every extended local homeomorphism has open target. -/
lemma LocalHomeomorph.extChart_isOpen_target [I.Boundaryless] {e : LocalHomeomorph M H} :
    IsOpen (e.extend I).target := by
  rw [extend_target, I.range_eq_univ, Set.inter_univ]
  exact I.continuous_symm.isOpen_preimage _ e.open_target
  ```
(My suggested name is probably not ideal.) #find_home suggests this should go into SmoothManifoldWithCorners.lean.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:1]: As a general comment: mathlib style is to indent all lines in a proof by two spaces (not zero).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+  {v : (x : M) → TangentSpace I x} {x₀ : M}
+  (hv : ContMDiffAt I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M)) x₀) (t₀ : ℝ)
+
+def HasIntegralCurveAt (v : (x : M) → TangentSpace I x) (γ : ℝ → M) (x₀ : M) (t₀ : ℝ) :=
+  γ t₀ = x₀ ∧ ∃ ε > (0 : ℝ), ∀ (t : ℝ), t ∈ Set.Ioo (t₀ - ε) (t₀ + ε) →
+    HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t)))
+
+/-- For any continuously differentiable vector field and any chosen non-boundary point `x₀` on the
+  manifold, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the tangent vector of `γ`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:70]: Slight wording suggestion: "/-- For any continuously differentiable vector field `v` on `M` and any chosen interior point `x₀` of `M`, there exists an integral curve ..."

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 7]
```diff
@@ -0,0 +1,153 @@
...
+/-!
+# Integral curves of vector fields on a manifold
+
+For any continuously differentiable vector field on a manifold `M` and any chosen non-boundary point
+`x₀ : M`, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the tangent vector of `γ`
+at `t` coincides with the vector field at `γ t` for all `t` within an open interval around `t₀`.
+
+As a corollary, such an integral curve exists for any starting point `x₀` if `M` is a manifold
+without boundary.
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:19]: Can you mention the definition `HasIntegralCurveAt` as well? (I've suggested a docstring below.)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 8]
```diff
@@ -0,0 +1,153 @@
...
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
+  {H : Type*} [TopologicalSpace H] {I : ModelWithCorners ℝ E H}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [SmoothManifoldWithCorners I M]
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace ℝ E']
+  {H' : Type*} [TopologicalSpace H'] {I' : ModelWithCorners ℝ E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+  {v : (x : M) → TangentSpace I x} {x₀ : M}
+  (hv : ContMDiffAt I I.tangent 1 (fun x => (⟨x, v x⟩ : TangentBundle I M)) x₀) (t₀ : ℝ)
+
+def HasIntegralCurveAt (v : (x : M) → TangentSpace I x) (γ : ℝ → M) (x₀ : M) (t₀ : ℝ) :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:65]: A first cut at a docstring, can surely be optimised:
```suggestion
/-- If `v : M → TM` is a vector field on `M` and `x : M`, `HasIntegralCurveAt v γ x₀ t₀` means
`γ : ℝ → M` is a differentiable integral curve of `v` with `γ x₀ = t₀. -/
def HasIntegralCurveAt (v : (x : M) → TangentSpace I x) (γ : ℝ → M) (x₀ : M) (t₀ : ℝ) :=

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:65]: Thinking about this, I find `HasIntegralCurveAt` misleading. How about `IsIntegralCurveAt`?

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 9]
```diff
@@ -0,0 +1,153 @@
...
+obtain ⟨_, hv⟩ := hv
+have hI : Set.range I ∈ nhds (extChartAt I x₀ x₀)
+· rw [mem_nhds_iff]
+  refine ⟨interior (extChartAt I x₀).target,
+    subset_trans interior_subset (extChartAt_target_subset_range ..),
+    isOpen_interior, hx⟩
+obtain ⟨f, hf1, ε1, hε1, hf2⟩ :=
+  exists_forall_hasDerivAt_Ioo_eq_of_contDiffAt t₀ (ContDiffAt.snd (hv.contDiffAt hI))
+rw [←Real.ball_eq_Ioo] at hf2
+-- use continuity of f to extract ε2 so that for t ∈ Real.ball t₀ ε2,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:84]: These comments can be really helpful, it's great that you're adding them!
They're not detailed enough yet for me to follow the proof.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 10]
```diff
@@ -0,0 +1,153 @@
...
+-- f t ∈ interior (extChartAt I x₀).target
+have hcont := (hf2 t₀ (Real.ball_eq_Ioo .. ▸ Metric.mem_ball_self hε1)).continuousAt
+rw [continuousAt_def, hf1] at hcont
+have hnhds : f ⁻¹' (interior (extChartAt I x₀).target) ∈ nhds t₀ :=
+  hcont _ (IsOpen.mem_nhds isOpen_interior hx)
+rw [Metric.mem_nhds_iff] at hnhds
+obtain ⟨ε2, hε2, hf3⟩ := hnhds
+simp_rw [Set.subset_def, Set.mem_preimage] at hf3
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:92]: Given all the Set lemmas you're using, `open`ing Set might be a nice minor clean-up.

**Review by grunweg — COMMENTED** [review]
I know this is still work in progress - I still have some comments and suggestions, perhaps they're helpful. As with the other PR: I'm really glad you're working on this! Don't let my number of comments discourage you; rather take that as a sign that I read your code closely :-)

I haven't looked at the big proof in detail yet.

**Comment by grunweg** [comment]
(Taking the liberty to tag this as differential geometry; hope you don't mind.)

I think the definition of interior and boundary of a manifold would make a nice little section; would you be interested if I try to flesh that out a little? (For instance, I could push a commit to your PR, or make a separate PR with you as co-author.)

**Comment by grunweg** [comment]
> (Taking the liberty to tag this as differential geometry; hope you don't mind.)
> 
> I think the definition of interior and boundary of a manifold would make a nice little section; would you be interested if I try to flesh that out a little? (For instance, I could push a commit to your PR, or make a separate PR with you as co-author.)

FYI, I started a section outlining these things [on a branch](https://github.com/leanprover-community/mathlib4/tree/MR-interior-boundary). I think that is close to the right abstraction for mathlib; a number of sorries are still open. If you'd like, we can join forces in filling them in :-).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:42]: Included your lemma. Thanks! I'm keeping it all in one file for now but will move lemmas to other files at the end where appropriate.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:1]: Good to have this clarified!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 8 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:65]: I like this. I will also shuffle the arguments around: `IsIntegralCurveAt γ v t₀ x₀`.

**Comment by winstonyin** [comment]
I’d love to work together on this. You should just push to my branch! Thanks for all the detailed comments :)

**Comment by grunweg** [comment]
I just pushed a commit with my skeleton for interior and boundary. I'll work a little while more on it (30mins perhaps), then I'll leave it to you. By the way, did you forget to push local changes?

**Comment by winstonyin** [comment]
Yes I did forget to push local changes. Will merge them with your commits!

**Comment by winstonyin** [comment]
I've added some detailed comments to the long proof to facilitate simplification. My sense is that it would help to add a few lemmas about changes of coordinates in the tangent bundle, i.e. as derivatives of compositions of charts of the base space.

**Comment by winstonyin** [comment]
Added translation and scale lemmas for integral curves:
* If `γ` solves `v` with `γ t₀ = x₀`, then `γ (t + dt)` solves `v` with `γ (t₀ - dt) = x₀`.
* If `γ` solves `v` with `γ t₀ = x₀`, then `γ (a * t)` solves `a • v` with `γ (t₀ / a) = x₀` for any non-zero `a`.

**Comment by grunweg** [comment]
Just pushed my local changes. Nice that there were almost no conflicts, as we've worked in different files :-)

There was one small conflict: your lemma "IsInteriorPoint" conflicted with the the definition. I renamed it to `is_interior_point` --- per the [naming convention](https://leanprover-community.github.io/contribute/naming.html) for mathlib4, it should be named in snake_case.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 11]
```diff
@@ -0,0 +1,288 @@
...
+variable
+  {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {H : Type*} [TopologicalSpace H] {I : ModelWithCorners 𝕜 E H}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [SmoothManifoldWithCorners I M]
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace 𝕜 E']
+  {H' : Type*} [TopologicalSpace H'] {I' : ModelWithCorners 𝕜 E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+
+lemma ModelWithCorners.isOpen_extend_target [I.Boundaryless] {e : LocalHomeomorph M H} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:45]: Looking at e.g. `LocalHomeomorph.isOpen_extend_source`, this should also be in the LocalHomeomorph namespace.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 12]
```diff
@@ -0,0 +1,288 @@
...
+    IsOpen (e.extend I).target := by
+  rw [LocalHomeomorph.extend_target, I.range_eq_univ, inter_univ]
+  exact I.continuous_symm.isOpen_preimage _ e.open_target
+
+lemma ModelWithCorners.isOpen_target [I.Boundaryless] {x : M} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:50]: When you're polishing things: I'd just inline this lemma now, given it's literally an alias.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 13]
```diff
@@ -0,0 +1,288 @@
...
+  ext
+  simp [inv_mul_eq_div, div_self ha]
+
+/-- For any continuously differentiable vector field and any chosen non-boundary point `x₀` on the
+  manifold, there exists an integral curve `γ : ℝ → M` such that `γ t₀ = x₀` and the tangent vector
+  of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open interval around
+  `t₀`.-/
+theorem exists_integralCurve_of_contMDiff_tangent_section (hx : I.IsInteriorPoint x₀) :
+    ∃ (γ : ℝ → M), IsIntegralCurveAt γ v t₀ x₀ := by
+  /- express the derivative of the section `v` in the local charts -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:200]: I think normal comments `with --` would suffice here. Not sure if that's in the style guide or just my personal opinion :-)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 14]
```diff
@@ -0,0 +1,288 @@
...
+        ←extChartAt_source I, ←extChartAt_source I, inter_comm, ←inter_assoc, inter_self]
+      constructor
+      · exact mem_extChartAt_source ..
+      · rw [←mem_preimage]
+        apply mem_of_mem_of_subset _ (LocalEquiv.source_subset_preimage_target _)
+        rw [LocalEquiv.symm_source]
+        exact hf3'
+  rw [hvsub]
+  apply HasFDerivAt.comp_hasDerivAt _ _ h
+  /- change of coordinates in the tangent bundle is exactly the derivative of composition of local
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:267]: Didn't think about this in depth yet, but: would this be worth extracting into a separate lemma?

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 15]
```diff
@@ -0,0 +1,288 @@
...
+  `t₀`.-/
+theorem exists_integralCurve_of_contMDiff_tangent_section (hx : I.IsInteriorPoint x₀) :
+    ∃ (γ : ℝ → M), IsIntegralCurveAt γ v t₀ x₀ := by
+  /- express the derivative of the section `v` in the local charts -/
+  rw [contMDiffAt_iff] at hv
+  obtain ⟨_, hv⟩ := hv
+  /- `hI` should be a separate lemma -/
+  have hI : range I ∈ nhds (extChartAt I x₀ x₀) := by
+    rw [mem_nhds_iff]
+    refine ⟨interior (extChartAt I x₀).target,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:206]: `exact` suffices and IIRC is a tiny bit faster

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 16]
```diff
@@ -0,0 +1,288 @@
...
+  · apply DifferentiableAt.hasFDerivAt
+    apply MDifferentiableAt.differentiableAt
+    apply MDifferentiableAt.comp (I' := I)
+    · exact (contMDiffAt_extChartAt (n := 1)).mdifferentiableAt (le_refl _)
+    · apply MDifferentiableOn.mdifferentiableAt
+        ((contMDiffOn_extChartAt_symm (n := 1) _).mdifferentiableOn (le_refl _))
+      rw [mem_nhds_iff]
+      exact ⟨interior (extChartAt I x₀).target, interior_subset, isOpen_interior, hf3 _ ht2⟩
+  · rw [mem_nhds_iff]
+    refine ⟨interior (extChartAt I x₀).target,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:279]: see above, use `exact`

**Comment by grunweg** [comment]
Your high-level comments on the proof are really helpful! I took another quick skim, see below.

If you're in the mood for a distraction, you're welcome to prove the first lemma `foobar` about interior points. Apart from that, this file is basically complete - I also welcome your comments, ideas and suggestions for improvement there. :-)

I'll be away from mathlib, definitely until the weekend (perhaps one more week).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 17]
```diff
@@ -0,0 +1,288 @@
...
+lemma ModelWithCorners.isOpen_extend_target [I.Boundaryless] {e : LocalHomeomorph M H} :
+    IsOpen (e.extend I).target := by
+  rw [LocalHomeomorph.extend_target, I.range_eq_univ, inter_univ]
+  exact I.continuous_symm.isOpen_preimage _ e.open_target
+
+lemma ModelWithCorners.isOpen_target [I.Boundaryless] {x : M} :
+    IsOpen (extChartAt I x).target := I.isOpen_extend_target
+
+/-- If `M` has no boundary, every point of `M` is an interior point. -/
+lemma ModelWithCorners.is_interior_point [I.Boundaryless] {x : M} : I.IsInteriorPoint x := by
```
Comment (alreadydone) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:54]: I think it should be
```suggestion
lemma ModelWithCorners.isInteriorPoint [I.Boundaryless] {x : M} : I.IsInteriorPoint x := by
```
by naming convention, as IsInteriorPoint is atomic.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:54]: :bulb: Ah right, per rule 5. Indeed!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 14 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:267]: Yes. I suggest adding a few lemmas in `TangentBundle` to make working with `coordChange` more straightforward. Will be away from mathlib for a week or so as it's Thanksgiving over here.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 13 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:200]: Just using `/- ... -/` for multiline comments at the moment. I assume a lot of these comments will be shortened / moved elsewhere once we extract a few lemmas from the proof. Eventually let's use `--`.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 12 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:50]: I would agree, except that Lean's type checker seems to have trouble uniting `extChartAt I x` with `(chartAt H x).extend I` if I'm inlining, requiring a named argument and another rewrite. Perhaps I'm missing something.

**Comment by grunweg** [comment]
Reviewing in detail *how* to prove that interior and boundary are disjoint, I realised/remembered
- the usual proofs all require singular homology and something like Banach's fixed point theorem (which has been [formalised](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Completed.20proof.20of.20the.20Brouwer.20Fixed.20Point.20Theorem/near/297494528), but not yet ported to Lean 4 --- [singular homology](https://leanprover.zulipchat.com/#narrow/stream/335062-homology/topic/Status.20of.20actual.20homology.20theory/near/402058994) is not far, though)
- the proof requires finite-dimensionality
(There are infinite-dimensional generalisations of Brouwer's fixed point theorem, but these require a compact domain. In this context, that's not enough: Banach manifolds are not locally compact in general.)
- As such, I'll move all lemmas relying on this  (e.g.: interior is open, interior and boundary are disjoint) to another PR, which is blocked on these landing. (Or feel free to delete them if you're waiting on me. My Lean time for the next two weeks is up.)

It's sad to "let go"; this was a good run. Yet, none of this is going to *waste* --- just postponed. And next time, I'll read up on the full proof beforehand...

**Comment by winstonyin** [comment]
Alas, the little `foobar` is one of those seemingly obvious but totally non-trivial theorems. Thanks for making another PR about that.

I'll be polishing up the main proof in this PR and splitting it off into a few more helper lemmas. Look forward to chatting more after your Lean break.

**Comment by winstonyin** [comment]
I believe the tangent bundle API could be much more convenient than it is now. To do coordinate changes, you currently have to go down to the level of `VectorBundleCore` and specify chart choices `achart H x`. Since we'd like to work a lot more with `extChartAt I x`, I suggest a shorthand like:
```
def tangentCoordChange (I) {M} ... (x y : M) := (tangentBundleCore I M).coordChange (achart H x) (achart H y)
```
together with a bunch of helper lemmas about `tangentCoordChange I x x` and compositions of `tangentCoordChange`. These are just elevated versions of `VectorBundleCore` fields, except the hypotheses like `∀ x ∈ s.baseSet i,` are now `∀ x ∈ (extChartAt I y).source`.

Perhaps there is a better approach. Just writing this idea down so I don't forget.

**Comment by grunweg** [comment]
I've ripped out the current version of boundary and replaced it by something more basic, moved to a separate PR. I hope that unblocks your work. (Comments over there are welcome; IIUC, mathlib needs more reviewers and anybody can review PRs.)

**Comment by winstonyin** [comment]
I believe this PR is now conceptually complete and ready for review.

**Review by grunweg — COMMENTED** [review]
The more I think about this, the more I believe the terminology in this PR is a bit unfortunate: this PR shows the *local* existence of integral curves - not global existence. Informally speaking (which matches e.g. Lee's textbook), an integral curve is a continuously differentiable curve $\gamma\colon (-\epsilon,\epsilon)\to M$ with $\gamma'(t)=v_{\gamma(t)}$ for all $t$. This formalisation considers curves defined on $\mathbb{R}$, using the familiar junk value pattern --- that's fair. But this has the potential to confuse non-experts in Lean (who might believe you just proved *global* existence).

At least, I'd like the documention to be crystal clear that integral curves are defined on $\mathbb{R}$, but are only tangent on some interval. Many places mention this already; I'd suggest a few more
- the docstring of `IsIntegralCurveAt` should also mention this
- how about adding a section "Implementation notes" in the main docstring and mentioning this junk value pattern?
- rename the main theorem to something with local existence?


At the latest when formalising global existence, I expect you'd need a more flexible definition, to encode the time of existence explicitly --- for instance, a predicate "IsIntegralCurveOn" taking a curve, vector field and time interval. I'm fine with this being added later. If you want to add it today, you can it for `isIntegralCurveAt_const` already. 

That said: that's about the only thing left I have to comment. Thank you for all the hard work!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 18]
```diff
@@ -0,0 +1,212 @@
...
+    IsIntegralCurveAt γ v t₀ x₀ ↔ IsIntegralCurveAt (γ ∘ (· * a)) (a • v) (t₀ / a) x₀ := by
+  refine ⟨fun hγ => IsIntegralCurveAt.comp_mul_ne_zero hγ ha, fun hγ ↦ ?_⟩
+  have := hγ.comp_mul_ne_zero (inv_ne_zero ha)
+  rw [smul_smul, inv_mul_eq_div, div_self ha, one_smul, ← div_mul_eq_div_div_swap,
+    inv_mul_eq_div, div_self ha, div_one, Function.comp.assoc] at this
+  convert this
+  ext
+  simp [inv_mul_eq_div, div_self ha]
+
+variable (t₀) in
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:139]:
```suggestion
variable (t₀) in
/-- If the vector field `v` vanishes at `x₀`, the constant curve at `x₀`
  is an integral curve of `v`. -/

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 19]
```diff
@@ -0,0 +1,212 @@
...
+
+/-- If `v : M → TM` is a vector field on `M` and `x : M`, `IsIntegralCurveAt γ v t₀ x₀` means
+  `γ : ℝ → M` is a differentiable integral curve of `v` with `γ x₀ = t₀`. -/
+def IsIntegralCurveAt (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (t₀ : ℝ) (x₀ : M) :=
+  γ t₀ = x₀ ∧ ∃ ε > (0 : ℝ), ∀ (t : ℝ), t ∈ Ioo (t₀ - ε) (t₀ + ε) →
+    HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t)))
+
+variable {t₀}
+
+lemma IsIntegralCurveAt.comp_add {γ : ℝ → M} (hγ : IsIntegralCurveAt γ v t₀ x₀) (dt : ℝ) :
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:52]: Probably some variant of those lemmas, yes, but I'm going to avoid the scope creep for now. The `HasMFDerivAt` API can also use some extra helpful lemmas about simple operations. For another day.

**Comment by winstonyin** [comment]
Thinking about `IsIntegralCurveOn` and `IsIntegralCurve`, I've realised there's no need to include `x₀` in `IsIntegralCurveAt`. I'll remove it from the definition.

**Comment by winstonyin** [comment]
I've decided to include `IsIntegralCurveOn` and `IsIntegralCurve` to avoid a refactor in the future. `IsIntegralCurveAt` is now defined in terms of `IsIntegralCurveOn`. Translation and scaling lemmas are proven for each of the three definitions. In the future, we anticipate proving the conditions for the global existence of integral curves, which will need `IsIntegralCurve`. The proof will require a construction that uses `IsIntegralCurveOn` on successively bigger sets `s`.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 20]
```diff
@@ -0,0 +1,297 @@
...
+  intros t ht
+  rw [Function.comp_apply,
+    ← ContinuousLinearMap.comp_id (ContinuousLinearMap.smulRight 1 (v (γ (t + dt))))]
+  apply HasMFDerivAt.comp t (hγ (t + dt) ht)
+  refine ⟨(continuous_add_right _).continuousAt, ?_⟩
+  simp only [mfld_simps, hasFDerivWithinAt_univ]
+  exact HasFDerivAt.add_const (hasFDerivAt_id _) _
+
+lemma isIntegralCurveOn_comp_add {dt : ℝ} :
+    IsIntegralCurveOn γ v s ↔ IsIntegralCurveOn (γ ∘ (· + dt)) v { t | t + dt ∈ s } := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:122]: I think this spelling is slightly more readable: a "new idea" goes on one line (e.g., lemma name, hypothesis, conclusion, proof --- if shorter, they can of course be combined; in this case, as the conclusion doesn't fit on one line anyway, I'd rather put it separately). Again, this is a really minor change.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 21]
```diff
@@ -0,0 +1,297 @@
...
+
+lemma IsIntegralCurveOn.comp_mul (hγ : IsIntegralCurveOn γ v s) (a : ℝ) :
+    IsIntegralCurveOn (γ ∘ (· * a)) (a • v) { t | t * a ∈ s } := by
+  intros t ht
+  rw [Function.comp_apply, Pi.smul_apply, ← ContinuousLinearMap.smulRight_comp]
+  refine HasMFDerivAt.comp t (hγ (t * a) ht) ⟨(continuous_mul_right _).continuousAt, ?_⟩
+  simp only [mfld_simps, hasFDerivWithinAt_univ]
+  exact HasFDerivAt.mul_const' (hasFDerivAt_id _) _
+
+lemma isIntegralCurvOn_comp_mul_ne_zero {a : ℝ} (ha : a ≠ 0) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:172]: I have the nagging feeling the next four lemmas could be golfed (all the manipulations around multiplication and division). I might be wrong; perhaps none of  simp, ring and (g)congr is useful here. It might be worth extracting an MWE and asking the hive mind on zulip.

**Review by grunweg — COMMENTED** [review]
I just re-read everything and pushed a commit cleaning up some small stuff I found.
- I put the translation and scaling lemmas into their own sections.
- I've re-used the variables \gamma and s when stating lemmas.
- I've re-done the line-breaks (see below).

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 22]
```diff
@@ -0,0 +1,319 @@
...
+
+lemma IsIntegralCurveOn.mono (h : IsIntegralCurveOn γ v s) (hs : s' ⊆ s) :
+    IsIntegralCurveOn γ v s' := fun t ht ↦ h t (mem_of_mem_of_subset ht hs)
+
+lemma IsIntegralCurveOn.of_union (h : IsIntegralCurveOn γ v s) (h' : IsIntegralCurveOn γ v s') :
+    IsIntegralCurveOn γ v (s ∪ s') := by
+  intros t ht
+  cases' ht with ht ht
+  · exact h _ ht
+  · exact h' _ ht
```
Comment (thorimur) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:111]: Minor simplification:
```suggestion
    IsIntegralCurveOn γ v (s ∪ s') := fun _ ↦ fun | .inl ht => h _ ht | .inr ht => h' _ ht
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 23]
```diff
@@ -0,0 +1,315 @@
...
+  -- express `v (γ t)` as `D⁻¹ D (v (γ t))`, where `D` is a change of coordinates, so we can use
+  -- `HasFDerivAt.comp_hasDerivAt` on `h`
+  rw [← tangentCoordChange_self (I := I) (x := (extChartAt I x₀).symm (f t))
+      (z := (extChartAt I x₀).symm (f t)) (v := v ((extChartAt I x₀).symm (f t))) hft2,
+    ← tangentCoordChange_comp (x := x₀) ⟨⟨hft2, hft1⟩, hft2⟩]
+  apply HasFDerivAt.comp_hasDerivAt _ _ h
+  apply HasFDerivWithinAt.hasFDerivAt (s := range I) _ <|
+    mem_nhds_iff.mpr ⟨interior (extChartAt I x₀).target,
+      subset_trans interior_subset (extChartAt_target_subset_range ..),
+      isOpen_interior, hf3⟩
```
Comment (thorimur) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:304]: We can clean things up visually a fair bit just by defining `xₜ := γ t`, at the cost of a `dsimp only` later on:
```suggestion
  let xₜ : M := (extChartAt I x₀).symm (f t) -- `xₜ := γ t`
  have h : HasDerivAt f (x := t) <| fderivWithin ℝ
      (extChartAt I x₀ ∘ (extChartAt I xₜ).symm)
      (range I)
      (extChartAt I xₜ xₜ)
      (v xₜ) :=
    (haux t ht).1
  rw [← tangentCoordChange_def] at h
  have hf3 := mem_preimage.mp <| mem_of_mem_nhds (haux t ht).2
  have hf3' := mem_of_mem_of_subset hf3 interior_subset
  have hft1 := mem_preimage.mp <|
    mem_of_mem_of_subset hf3' (extChartAt I x₀).target_subset_preimage_source
  have hft2 := mem_extChartAt_source I xₜ
  -- express the derivative of the integral curve in the local chart
  refine ⟨(continuousAt_extChartAt_symm'' _ _ hf3').comp h.continuousAt,
    HasDerivWithinAt.hasFDerivWithinAt ?_⟩
  simp only [mfld_simps, hasDerivWithinAt_univ]
  show HasDerivAt ((extChartAt I xₜ ∘ (extChartAt I x₀).symm) ∘ f) (v xₜ) t
  -- express `v (γ t)` as `D⁻¹ D (v (γ t))`, where `D` is a change of coordinates, so we can use
  -- `HasFDerivAt.comp_hasDerivAt` on `h`
  rw [← tangentCoordChange_self (I := I) (x := xₜ) (z := xₜ) (v := v xₜ) hft2,
    ← tangentCoordChange_comp (x := x₀) ⟨⟨hft2, hft1⟩, hft2⟩]
  apply HasFDerivAt.comp_hasDerivAt _ _ h
  apply HasFDerivWithinAt.hasFDerivAt (s := range I) _ <|
    mem_nhds_iff.mpr ⟨interior (extChartAt I x₀).target,
      subset_trans interior_subset (extChartAt_target_subset_range ..),
      isOpen_interior, hf3⟩
  dsimp only [xₜ]
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 24]
```diff
@@ -0,0 +1,316 @@
...
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [SmoothManifoldWithCorners I M]
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace ℝ E']
+  {H' : Type*} [TopologicalSpace H'] {I' : ModelWithCorners ℝ E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+
+/-- If `γ : ℝ → M`, `v : M → TM` is a vector field on `M`, and `s ∈ Set ℝ`,
+  `IsIntegralCurveOn γ v s` means `γ t` is tangent to `v (γ t)` for all `t ∈ s`. The value of `γ`
+  outside of `s` is irrelevant and considered junk.  -/
+def IsIntegralCurveOn (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (s : Set ℝ) :=
+  ∀ (t : ℝ), t ∈ s → HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t)))
```
Comment (thorimur) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:72]: (style)
```suggestion
  ∀ t ∈ s, HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t)))
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 25]
```diff
@@ -0,0 +1,317 @@
...
+
+lemma IsIntegralCurveAt.hasMFDerivAt (h : IsIntegralCurveAt γ v t₀) :
+    HasMFDerivAt 𝓘(ℝ, ℝ) I γ t₀ ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t₀))) :=
+  have ⟨_, hs, h⟩ := h
+  h t₀ (mem_of_mem_nhds hs)
+
+lemma IsIntegralCurveOn.isIntegralCurveAt (h : IsIntegralCurveOn γ v s) (hs : s ∈ nhds t₀) :
+    IsIntegralCurveAt γ v t₀ := ⟨s, hs, h⟩
+
+lemma IsIntegralCurveAt.isIntegralCurveOn (h : ∀ t ∈ s, IsIntegralCurveAt γ v t) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:124]:
```suggestion
/-- If `γ` is an integral curve at each `t ∈ s`, it is an integral curve on `s`. -/
lemma IsIntegralCurveAt.isIntegralCurveOn (h : ∀ t ∈ s, IsIntegralCurveAt γ v t) :

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 26]
```diff
@@ -0,0 +1,317 @@
...
+    IsIntegralCurveOn γ v s := by
+  intros t ht
+  obtain ⟨s, hs, h⟩ := h t ht
+  exact h t (mem_of_mem_nhds hs)
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:129]: Do you think an iff version of the above lemma would be useful? (If yes, feel free to add it.)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 27]
```diff
@@ -0,0 +1,317 @@
...
+    inv_mul_eq_div, div_self ha, mul_one, setOf_mem_eq] at this
+  convert this
+  ext t
+  rw [Function.comp_apply, Function.comp_apply, mul_assoc, inv_mul_eq_div, div_self ha, mul_one]
+
+lemma IsIntegralCurveAt.comp_mul_ne_zero (hγ : IsIntegralCurveAt γ v t₀) {a : ℝ} (ha : a ≠ 0) :
+    IsIntegralCurveAt (γ ∘ (· * a)) (a • v) (t₀ / a) := by
+  obtain ⟨ε, hε, h⟩ := isIntegralCurveAt_iff.mp hγ
+  rw [isIntegralCurveAt_iff]
+  refine ⟨ε / |a|, div_pos hε (abs_pos.mpr ha), ?_⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:211]: `by positivity` will also solve the second argument

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 28]
```diff
@@ -0,0 +1,317 @@
...
+  intro t
+  rw [h, ← ContinuousLinearMap.zero_apply (R₁ := ℝ) (R₂ := ℝ) (1 : ℝ),
+    ContinuousLinearMap.smulRight_one_one]
+  exact hasMFDerivAt_const ..
+
+end Scaling
+
+variable (t₀) {x₀ : M}
+
+/-- For any continuously differentiable vector field and any chosen non-boundary point `x₀` on the
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:253]:
```suggestion
/-- For any continuously differentiable vector field on `M` and any interior point `x₀ ∈M`,

**Review by grunweg — APPROVED** [review]
A last collection of comments. Looks good from my side (I don't know if the main proof can be simplified; certainly time will tell also).
This has come a long way - thank you for your perseverance.

**Comment by grunweg** [comment]
And I just pushed a comment making I in `range_mem_nhds` implicit again: that was an oversight on my side.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 29]
```diff
@@ -0,0 +1,317 @@
...
+
+lemma IsIntegralCurveOn.of_union (h : IsIntegralCurveOn γ v s) (h' : IsIntegralCurveOn γ v s') :
+    IsIntegralCurveOn γ v (s ∪ s') := fun _ ↦ fun | .inl ht => h _ ht | .inr ht => h' _ ht
+
+lemma isIntegralCurveAt_iff :
+    IsIntegralCurveAt γ v t₀ ↔ ∃ ε > 0, IsIntegralCurveOn γ v (Metric.ball t₀ ε) := by
+  refine ⟨?_,  fun ⟨ε, hε, h⟩ ↦ ⟨Metric.ball t₀ ε, Metric.ball_mem_nhds _ hε, h⟩⟩
+  rintro ⟨s, hs, h⟩
+  obtain ⟨ε, hε, hsub⟩ := Metric.mem_nhds_iff.mp hs
+  exact ⟨ε, hε, h.mono hsub⟩
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:114]: Using the lemma suggested above:
```suggestion
  rw [IsIntegralCurveAt_iff_eventually, Metric.eventually_nhds_iff_ball]; rfl
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 30]
```diff
@@ -0,0 +1,317 @@
...
+  exact HasFDerivAt.add_const (hasFDerivAt_id _) _
+
+lemma isIntegralCurveOn_comp_add {dt : ℝ} :
+    IsIntegralCurveOn γ v s ↔ IsIntegralCurveOn (γ ∘ (· + dt)) v { t | t + dt ∈ s } := by
+  refine ⟨fun hγ ↦ hγ.comp_add _, fun hγ ↦ ?_⟩
+  have := hγ.comp_add (-dt)
+  simp only [mem_setOf_eq, neg_add_cancel_right, setOf_mem_eq] at this
+  convert this
+  ext
+  simp only [Function.comp_apply, neg_add_cancel_right]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:151]: Optional: I slightly prefer
```suggestion
  convert hγ.comp_add (-dt)
  ext
  simp only [Function.comp_apply, neg_add_cancel_right, Set.ext_iff]
  aesop
```

Comment (ocfnash) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:151]: similar remarks apply to lemmas below

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 31]
```diff
@@ -0,0 +1,317 @@
...
+variable (t₀) {x₀ : M}
+
+/-- For any continuously differentiable vector field and any chosen non-boundary point `x₀` on the
+  manifold, there exists an integral curve `γ : ℝ → M` such that `γ t₀ = x₀` and the tangent vector
+  of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open interval around
+  `t₀`.-/
+theorem exists_isIntegralCurveAt_of_contMDiffAt
+    (hv : ContMDiffAt I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M)) x₀)
+    (hx : I.IsInteriorPoint x₀) :
+    ∃ (γ : ℝ → M), γ t₀ = x₀ ∧ IsIntegralCurveAt γ v t₀ := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:260]:
```suggestion
    ∃ γ : ℝ → M, γ t₀ = x₀ ∧ IsIntegralCurveAt γ v t₀ := by
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 32]
```diff
@@ -0,0 +1,317 @@
...
+  rw [← tangentCoordChange_self (I := I) (x := xₜ) (z := xₜ) (v := v xₜ) hft2,
+    ← tangentCoordChange_comp (x := x₀) ⟨⟨hft2, hft1⟩, hft2⟩]
+  apply HasFDerivAt.comp_hasDerivAt _ _ h
+  apply HasFDerivWithinAt.hasFDerivAt (s := range I) _ <|
+    mem_nhds_iff.mpr ⟨interior (extChartAt I x₀).target,
+      subset_trans interior_subset (extChartAt_target_subset_range ..),
+      isOpen_interior, hf3⟩
+  dsimp only [xₜ]
+  nth_rw 4 [← (extChartAt I x₀).right_inv hf3']
+  exact hasFDerivWithinAt_tangentCoordChange ⟨hft1, hft2⟩
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:308]:
```suggestion
  rw [← (extChartAt I x₀).right_inv hf3']
  exact hasFDerivWithinAt_tangentCoordChange ⟨hft1, hft2⟩
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 33]
```diff
@@ -0,0 +1,317 @@
...
+
+/-- For any continuously differentiable vector field defined on a manifold without boundary and any
+  chosen starting point `x₀ : M`, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the
+  tangent vector of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open
+  interval around `t₀`. -/
+lemma exists_isIntegralCurveAt_of_contMDiffAt_boundaryless [BoundarylessManifold I M]
+    (hv : ContMDiffAt I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M)) x₀) :
+    ∃ (γ : ℝ → M), γ t₀ = x₀ ∧ IsIntegralCurveAt γ v t₀ :=
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:316]:
```suggestion
    ∃ γ : ℝ → M, γ t₀ = x₀ ∧ IsIntegralCurveAt γ v t₀ :=
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 34]
```diff
@@ -0,0 +1,317 @@
...
+      subset_trans interior_subset (extChartAt_target_subset_range ..),
+      isOpen_interior, hf3⟩
+  dsimp only [xₜ]
+  nth_rw 4 [← (extChartAt I x₀).right_inv hf3']
+  exact hasFDerivWithinAt_tangentCoordChange ⟨hft1, hft2⟩
+
+/-- For any continuously differentiable vector field defined on a manifold without boundary and any
+  chosen starting point `x₀ : M`, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the
+  tangent vector of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open
+  interval around `t₀`. -/
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:313]:
```suggestion
/-- Existence of local integral curves for a C¹ vector field on a smooth manifold without boundary.
-/
```

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 35]
```diff
@@ -0,0 +1,317 @@
...
+  exact hasMFDerivAt_const ..
+
+end Scaling
+
+variable (t₀) {x₀ : M}
+
+/-- For any continuously differentiable vector field and any chosen non-boundary point `x₀` on the
+  manifold, there exists an integral curve `γ : ℝ → M` such that `γ t₀ = x₀` and the tangent vector
+  of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open interval around
+  `t₀`.-/
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:256]: IMHO this comment is no easier to read than the formal statement. I suggest:
```suggestion
/-- Existence of local integral curves for a C¹ vector field at interior points of a smooth
manifold. -/
```
since the formal statement is available if someone wants more precision.

**Review by ocfnash — APPROVED** [review]
Thank you both for all this work and for your persistence; it's great to see differential geometry begin to move.

Please apply my suggestions and then feel free to merge.

bors d+

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 36]
```diff
@@ -0,0 +1,317 @@
...
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+
+/-- If `γ : ℝ → M`, `v : M → TM` is a vector field on `M`, and `s ∈ Set ℝ`,
+  `IsIntegralCurveOn γ v s` means `γ t` is tangent to `v (γ t)` for all `t ∈ s`. The value of `γ`
+  outside of `s` is irrelevant and considered junk.  -/
+def IsIntegralCurveOn (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (s : Set ℝ) :=
+  ∀ t ∈ s, HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight <| v (γ t))
+
+/-- If `v : M → TM` is a vector field on `M`, and `t₀ : ℝ`, `IsIntegralCurveAt γ v t₀` means
+  `γ : ℝ → M` is a local integral curve of `v` in an open interval of `t₀`. That is, there exists
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:75]: The definition is for `nhds`, not intervals, so I've changed the text to say neighbourhood instead.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 26 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:129]: Added!

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 37]
```diff
@@ -0,0 +1,317 @@
...
+def IsIntegralCurveAt (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (t : ℝ) :=
+  ∃ s ∈ nhds t, IsIntegralCurveOn γ v s
+
+/-- If `v : M → TM` is a vector field on `M`, `IsIntegralCurve γ v` means `γ : ℝ → M` is a global
+  integral curve of `v`. That is, `γ t` is tangent to `v (γ t)` for all `t : ℝ`. -/
+def IsIntegralCurve (γ : ℝ → M) (v : (x : M) → TangentSpace I x) :=
+  ∀ t : ℝ, HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight (v (γ t)))
+
+variable {γ γ' : ℝ → M} {v : (x : M) → TangentSpace I x} {s s' : Set ℝ} {t₀ : ℝ}
+
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:81]: I changed the base definition of `IsIntegralCurveAt` to use `Filter.Eventually`. See [this commit](https://github.com/leanprover-community/mathlib4/pull/8483/commits/db893bd366188878c07257b52b6ae47e5ebe5856). This makes the definitions more "symmetric", but also adds a few calls to `isIntegralCurveAt_iff` or `isIntegralCurveAt_iff'` throughout later proofs. If this looks good, I'll merge in a few hours.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 38]
```diff
@@ -0,0 +1,314 @@
...
+`IsIntegralCurveOn γ v s` means `γ t` is tangent to `v (γ t)` for all `t ∈ s`. The value of `γ`
+outside of `s` is irrelevant and considered junk. -/
+def IsIntegralCurveOn (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (s : Set ℝ) : Prop :=
+  ∀ t ∈ s, HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight <| v (γ t))
+
+/-- If `v` is a vector field on `M` and `t₀ : ℝ`, `IsIntegralCurveAt γ v t₀` means `γ : ℝ → M` is a
+local integral curve of `v` in a neighbourhood containing `t₀`. The value of `γ` outside of this
+interval is irrelevant and considered junk. -/
+def IsIntegralCurveAt (γ : ℝ → M) (v : (x : M) → TangentSpace I x) (t₀ : ℝ) : Prop :=
+  ∀ᶠ t in 𝓝 t₀, HasMFDerivAt 𝓘(ℝ, ℝ) I γ t ((1 : ℝ →L[ℝ] ℝ).smulRight <| v (γ t))
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:73]: This is now stated in terms of `Filter.Eventually` to make the three definitions more symmetric.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 39]
```diff
@@ -0,0 +1,314 @@
...
+
+variable {γ γ' : ℝ → M} {v : (x : M) → TangentSpace I x} {s s' : Set ℝ} {t₀ : ℝ}
+
+lemma IsIntegralCurve.isIntegralCurveOn (h : IsIntegralCurve γ v) (s : Set ℝ) :
+    IsIntegralCurveOn γ v s := fun t _ ↦ h t
+
+lemma isIntegralCurve_iff_isIntegralCurveOn : IsIntegralCurve γ v ↔ IsIntegralCurveOn γ v univ :=
+  ⟨fun h ↦ h.isIntegralCurveOn _, fun h t ↦ h t (mem_univ _)⟩
+
+lemma isIntegralCurveAt_iff :
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:88]: The lemma @ocfnash suggested above, before I changed the definition of `IsIntegralCurveAt`.

**Comment by winstonyin** [comment]
Merging this now, moving on to #8886! If there's disagreement on the last-minute change in `IsIntegralCurveAt`, we can fix it over there.

It's hard to overstate how happy I am that this is getting merged. It's my first new file / new API! I finished the first draft of this over a year ago (before the port began), and the detailed reviews by @grunweg and @ocfnash have been very supportive and encouraging. Thank you!

bors r+
